US08426448B2
Partitioned 6-(1-amino-1-methyl-ethyl)-pyridine-2-carbonitrile hydrochloride salt (880 mg, 3.8 mmol) between dichloromethane and 10% aqueous sodium bicarbonate (10 mL). Separate the layers and extract with dichloromethane (3×10 mL). Dry the organic extracts (Na2SO4) and evaporate to give 6-(1-amino-1-methyl-ethyl)-pyridine-2-carbonitrile in quantitative yield. 1H NMR (400 MHz, CDCl3) δ 7.76-7.68 (m, 2H), 7.50 (d, J=7.5 Hz, 1H), 1.87-1.80 (m, 2H), 1.47 (s, 6H).

reactant | 6-(1-amino-1-methyl-ethyl)-pyridine-2-carbonitrile hydrochloride salt | 3.8 mmol, 880 mg | Cl.NC(C)(C)C1=CC=CC(=N1)C#N
reactant | sodium bicarbonate | 10 mL | C([O-])(O)=O.[Na+]
solvent | dichloromethane | ClCCl | CH2Cl2
product | 6-(1-amino-1-methyl-ethyl)-pyridine-2-carbonitrile | quantitative yield | NC(C)(C)C1=CC=CC(=N1)C#N | C9H11N3
